US07560558B2
Compound 220: [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-phenyl-methanone
(3-Hydroxy-6-methyl-pyridin-2-yl)-phenyl-methanone (213 mg), 4-chloro-6,7-dimethoxyquinoline (223 mg), and 4-dimethylaminopyridine (366 mg) were suspended in o-dichlorobenzene (3 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, water was then added thereto, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give the title compound (89 mg, yield 22%).

reactant | (3-Hydroxy-6-methyl-pyridin-2-yl)-phenyl-methanone | 213 mg | OC=1C(=NC(=CC1)C)C(=O)C1=CC=CC=C1 | C13H11NO2
reactant | 4-chloro-6,7-dimethoxyquinoline | 223 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 366 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-phenyl-methanone | 89 mg, yield 22% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=CC1)C)C(=O)C1=CC=CC=C1 | C24H20N2O4
